US08003692B2
3-Benzo[1,3]dioxol-5-yl-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and 3,4-methylenedioxyphenylboronic acid according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 80% ethyl acetate/hexanes) yielded the product (164 mg, 85%) as a white solid. 1H NMR (300 MHz, CDCl3): δ 7.07-7.00 (m, 2H), 6.81 (d, J=8.0 Hz, 2H), 6.31 (s, 1H), 5.99 (s, 2H), 2.70 (t, J=5.5 Hz, 2H), 2.45 (t, J=6.3 Hz, 2H), 2.12 (quintet, J=6.3 Hz, 2H). 13C (75 MHz, CDCl3): 199.7, 159.0, 149.2, 148.2, 132.8, 124.2, 120.7, 108.4, 106.3, 101.6, 37.4, 28.3, 23.0. LCMS (ESI): mass calcd for (C13H12O3) m/z 216.08; measured [M+H]+: m/z 216.95.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | 3,4-methylenedioxyphenylboronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
product | 3-Benzo[1,3]dioxol-5-yl-cyclohex-2-enone | 164 mg, 85% | O1COC2=C1C=CC(=C2)C2=CC(CCC2)=O | C13H12O3
